US04071557
To a mixture of 21.1 g. of 2-amino-4-methylbenzophenone, 58.4 g. of benzaldehyde and 35 ml. of isopropanol is added dropwise 5.5 ml. of 46% sulfuric acid while maintaining at temperature of 20°-25° C. There is then slowly added 2.7 g. of sodium borohydride while maintaining 20°-25° C. Thereafter three additional separate and alternate additions of 5.5 mls. of 46% sulfuric acid and 2.7 g. of sodium borohydride are effected while maintaining 20°-25° C. and controlling the foaming caused by the borohydride additions. After stirring for 6 hours there is added with cooling 58 g. of sodium bisulfite in 200 ml. of water followed by the addition of 100 ml. of toluene and stirring for 1.5 hours. The toluene layer is separated, washed twice with water and distilled to remove toluene and benzaldehyde. The cooled residue is treated with heptane which is flashed off and the residue cooled to obtain crystals of 2-benzylamino-4-methylbenzophenone.

reactant | 2-amino-4-methylbenzophenone | NC1=C(C(=O)C2=CC=CC=C2)C=CC(=C1)C | C14H13NO
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sodium borohydride | [BH4-].[Na+]
solvent | isopropanol | C(C)(C)O | C3H8O
product | 2-benzylamino-4-methylbenzophenone | C(C1=CC=CC=C1)NC1=C(C(=O)C2=CC=CC=C2)C=CC(=C1)C | C21H19NO
